US04100167
A mixture of 2-cyanopyridine picolinonitrile, 10.4 g, 0.1 mole), phosphorous acid (16.4 g, 0.2 mole), ISOPAR-M (26 g) and the wetting agents (0.6 g each) was kept heated at 150° C for 2 hours. The mixture was worked up with ethanol to get brown crystals of amino-(2 pyridyl)methane diphosphonic acid, 78%, contaminated with traces of tripicolinic acid amide (ir, nmn).

reactant | 2-cyanopyridine picolinonitrile | N1=C(C=CC=C1)C#N.C(#N)C1=NC=CC=C1 | 2C6H4N2
reactant | phosphorous acid | 0.2 mole, 16.4 g | P(O)(O)O | H3O3P
solvent | ethanol | C(C)O | C2H6O
product | amino-(2 pyridyl)methane diphosphonic acid | NC(P(O)(=O)O)(P(O)(=O)O)C1=NC=CC=C1 | C6H10N2O6P2
